US07205291B2
(3S,4R)-3-((1R)-1-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-4-{2-[3-(2-hydroxyethyl)phenyl]-2-oxoethyl}azetidin-2-one (3.0 g) prepared by reference example 15 and ruthenium trichloride (79 mg) were dissolved in acetone (77 ml) and to the solution was added at room temperature a solution of sodium periodate (3.3 g) in water (40 ml). The solution was stirred for 30 minutes. Further, a solution of sodium periodate (0.66 g) in water (4 ml) was added thereto and the solution was stirred for 3 hours. After removal of insoluble materials by filtration with celite, acetone was removed under reduced pressure. To the aqueous layer (about 50 ml) was added a saturated aqueous sodium chloride solution (100 ml) and the mixture was extracted with ethyl acetate (3×50 ml). The organic layers were combined, dried over magnesium sulfate and filtered. The solvent was removed under reduced pressure to give (3-{[(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxoazetidin-2-yl]acetyl}phenyl)acetic acid (2.72 g).

reactant | (3S,4R)-3-((1R)-1-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-4-{2-[3-(2-hydroxyethyl)phenyl]-2-oxoethyl}azetidin-2-one | 3.0 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(=O)C1=CC(=CC=C1)CCO)=O | C21H33NO4Si
reactant | sodium periodate | 3.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium periodate | 0.66 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 77 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
solvent | water | 4 ml | O | H2O
catalyst | ruthenium trichloride | 79 mg | [Ru](Cl)(Cl)Cl
product | (3-{[(2R,3S)-3-((1R)-1-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-4-oxoazetidin-2-yl]acetyl}phenyl)acetic acid | 2.72 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@H](NC1=O)CC(=O)C=1C=C(C=CC1)CC(=O)O | C21H31NO5Si
